US05102895
(1) Synthesis of 4-hydroxy-3-hydroxymethylbutyl 2,5,7,8-tetramethyl-2-(4',8', 12'-trimethyl tridecyl)-6-chromanyl carbonate
27.5 g (0.037 mol) of the 4-(2-tetrahydro-pyranyloxy)-3-(2-tetrahydropyranyloxymethyl)butyl 2,5,7,8-tetramethyl-2-(4',8', 12'-trimethyltridecyl)-6-chromanyl carbonate prepared in the above step was dissolved in 300 ml of methanol. To the obtained solution was added 5 g of p-toluenesulfonic acid followed by stirring at room temperature for 1 hour. 1 l of water was added to the reaction mixture and the oily matter thus separated out was extracted with ether. The extract was washed with water and dried. After distilling off the solvent, the obtained oily residue was purified by column chromatography (silica gel, hexane : ethyl acetate=3:1). Thus 16.5 g of the title compound was obtained as a colorless viscous liquid.

reactant | 4-(2-tetrahydro-pyranyloxy)-3-(2-tetrahydropyranyloxymethyl)butyl 2,5,7,8-tetramethyl-2-(4',8', 12'-trimethyltridecyl)-6-chromanyl carbonate | 0.037 mol, 27.5 g | C(OCCC(COC1OCCCC1)COC1OCCCC1)(OC=1C(=C2CCC(OC2=C(C1C)C)(CCCC(CCCC(CCCC(C)C)C)C)C)C)=O | C45H76O8
reactant | p-toluenesulfonic acid | 5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | 1 l | O | H2O
solvent | methanol | 300 ml | CO | CH4O
product | 4-hydroxy-3-hydroxymethylbutyl 2,5,7,8-tetramethyl-2-(4',8', 12'-trimethyl tridecyl)-6-chromanyl carbonate | 16.5 g | C(OCCC(CO)CO)(OC=1C(=C2CCC(OC2=C(C1C)C)(CCCC(CCCC(CCCC(C)C)C)C)C)C)=O | C35H60O6
